### PR TITLE
bitblast all `LLVM.Int` operations

### PR DESCRIPTION
**Pull request by luisacicolini**
Add the missing infrastructure to complete bitblasting coverage of `LLVM.Int` operations. In this way we solve all the problems in the `Bitblasting` unittest.

In the next PR we shall use this infrastructure in the checks performed by the interpreter.

### CODE REVIEW

File: Veir/Data/LLVM/Int/Bitblast.lean [hunk 1]
```diff
@@ -129,3 +129,279 @@ theorem getValue_sub {w : Nat} (x y : Int w) {nsw nuw : Bool} (h : (sub x y nsw
     (sub x y nsw nuw).getValue h = x.getValue - y.getValue := by
   simp [sub, Id.run]
   grind
+
+@[llvm_toBitVec, grind =]
+theorem isPoison_mul {w : Nat} (x y : Int w) {nsw nuw : Bool} :
+    (mul x y nsw nuw).isPoison =
+      if h : x.isPoison = true ∨ y.isPoison = true then
+        true
```
Comment (georgerennie) [inline Veir/Data/LLVM/Int/Bitblast.lean]: minor nit: in the `isPoison_sub`/`isPoison_add` you put the `true` on the same line as the `if`.

File: Veir/Data/LLVM/Int/Bitblast.lean [hunk 2]
```diff
@@ -129,3 +129,279 @@ theorem getValue_sub {w : Nat} (x y : Int w) {nsw nuw : Bool} (h : (sub x y nsw
...
+
+@[llvm_toBitVec, grind =]
+theorem isPoison_select {w : Nat} (x y : Int w) (c : Int 1) :
+    (select c x y).isPoison = decide (x.isPoison ∨ y.isPoison ∨ c.isPoison) := by
+  simp [select, isPoison, Id.run]
+  grind
+
+@[llvm_toBitVec, grind =]
+theorem getValue_select {w : Nat} (x y : Int w) (c : Int 1) (h : (select c x y).isPoison = false) :
+    (select c x y).getValue = if c.getValue == 1#1 then x.getValue else y.getValue := by
```
Comment (georgerennie) [inline Veir/Data/LLVM/Int/Bitblast.lean]:
```suggestion
    (select c x y).getValue h = if c.getValue == 1#1 then x.getValue else y.getValue := by
```

File: Veir/Data/LLVM/Int/Bitblast.lean [hunk 3]
```diff
@@ -129,3 +129,279 @@ theorem getValue_sub {w : Nat} (x y : Int w) {nsw nuw : Bool} (h : (sub x y nsw
...
+
+@[llvm_toBitVec, grind =]
+theorem isPoison_sdiv {w : Nat} (x y : Int w) {exact : Bool} :
+    (sdiv x y exact).isPoison =
+      if h : x.isPoison = true ∨ y.isPoison = true then
+        true
+      else
+        (y.getValue == 0 || (w != 1 && x.getValue == (BitVec.intMin w) && y.getValue == -1)) ∨
+        (exact ∧ BitVec.smod x.getValue y.getValue ≠ 0) ∨
+        (y.getValue = 0) := by
```
Comment (georgerennie) [inline Veir/Data/LLVM/Int/Bitblast.lean]: `y.getValue == 0` appears here as well as `y.getValue = 0` and a mix of `||` and `∨`, this can be tidied up.

File: Veir/Data/LLVM/Int/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [reply Veir/Data/LLVM/Int/Bitblast.lean]: made consistent with existing implementation

File: Veir/Data/LLVM/Int/Bitblast.lean (hunk 3 above)
Comment (luisacicolini) [reply Veir/Data/LLVM/Int/Bitblast.lean]: cleaned up to use `Prop`

**Comment by luisacicolini** [comment]
thank you @georgerennie! addressed :)

**Review by tobiasgrosser — APPROVED** [review]
Great.
